US04764239
4-Cyclohexylbenzenesulfonic Acid Sodium Salt
Cyclohexyl benzene (500 gm, 3.12M) is stirred in a five liter 3-necked flask equipped with a condenser and a thermowatch, and is warmed to 70° C. Sulfuric acid (381 gm, 3.74M) and 30% oleum (38.2 gm) are added dropwise to the stirred reaction at a rate sufficient to maintain a temperature of approximately 70°-75° C. When the addition is complete, the reaction is aged at 70° C. for three hours and then cooled. The resulting reaction mixture, which is deep red in color, then is drowned in two liters of a saturated NaCl solution that is cooled to approximately 5° C. The solid precipitated in the salt solution then is filtered and washed with hexane, following which the precipitate is dried in a vacuum oven at 75° C.

reactant | Cyclohexyl benzene | 3.12M, 500 gm | C1(CCCCC1)C1=CC=CC=C1 | C12H16
reactant | Sulfuric acid | 3.74M, 381 gm | S(O)(O)(=O)=O | H2O4S
reactant | oleum | 38.2 gm | OS(=O)(=O)O.O=S(=O)=O
reactant | NaCl | two liters | [Na+].[Cl-]
product | 4-Cyclohexylbenzenesulfonic Acid Sodium Salt | [Na+].C1(CCCCC1)C1=CC=C(C=C1)S(=O)(=O)[O-] | InChI=1S/C12H16O3S.Na/c13-16(14,15)12-8-6-11(7-9-12)10-4-2-1-3-5-10;/h6-10H,1-5H2,(H,13,14,15);/q;+1/p-1
